US04105776
1-(3-Acetylthio-2-methylpropanoyl)-L-proline is reacted with an ethereal solution of diazomethane according to the procedure described in Example 3 to obtain 1-(3-acetylthio-2-methylpropanoyl)-L-proline methyl ester.

reactant | 1-(3-Acetylthio-2-methylpropanoyl)-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C11H17NO4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 1-(3-acetylthio-2-methylpropanoyl)-L-proline methyl ester | COC([C@H]1N(CCC1)C(C(CSC(C)=O)C)=O)=O | C12H19NO4S
